US07402608B2
To trans 4-methyl-cyclohexanecarboxylic acid (148 mg, 1.044 mmol) and triphenylphosphine (274 mg, 1.044 mmol) dissolved in 1,2-dichloroethane (1.5 ml) was added N-chlorosuccinimide (145 mg, 1.084 mmol). After 15 minutes of stirring at room temperature, a solution of 3-(1,4-Dioxa-spiro[4.5]dec-8-ylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester (300 mg, 0.803 mmol) in 1,2-dichloroethane (1.5 ml) was added. The resulting mixture was then stirred for 18 h at 90° C. and then cooled to room temperature. It was then diluted with ethyl acetate (10 ml) and a solution of saturated NaHCO3 (10 ml) was added. The aqueous phase was separated and washed with ethyl acetate (2×10 ml) and the combined organic layers were dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (0% to 30% EtOAc/Hexane) to obtain 265 mg (66%) of 3-[(1,4-Dioxa-spiro[4.5]dec-8-yl)-(trans 4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester.

reactant | trans 4-methyl-cyclohexanecarboxylic acid | 1.044 mmol, 148 mg | C[C@@H]1CC[C@H](CC1)C(=O)O | C8H14O2
reactant | triphenylphosphine | 1.044 mmol, 274 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-chlorosuccinimide | 1.084 mmol, 145 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-(1,4-Dioxa-spiro[4.5]dec-8-ylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.803 mmol, 300 mg | COC(=O)C=1SC(=CC1NC1CCC2(OCCO2)CC1)C1=CC=CC=C1 | C20H23NO4S
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 1.5 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 1.5 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(1,4-Dioxa-spiro[4.5]dec-8-yl)-(trans 4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 265 mg, 66% | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC2(OCCO2)CC1)C1=CC=CC=C1 | C28H35NO5S
